* Extracted active converter macro decision-boundary transient.
.option scale=1u
.param mc_mm_switch=0 mc_pr_switch=0
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.pm3.spice"
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__mismatch.corner.spice"
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice"
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__mismatch.corner.spice"
* SKY130 Spice File.
.option scale=1.0u
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.tech/ngspice/parameters/lod.spice"
.param
+ lv_dlc_rotweak = .00e-9
+ lvhvt_dlc_rotweak = .00e-9
+ lvt_dlc_rotweak = .00e-9
+ hv_dlc_rotweak = .00e-9
+ sky130_fd_pr__nfet_01v8__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__esd_nfet_01v8__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__nfet_01v8_lvt__dlc_rotweak = lvt_dlc_rotweak
+ sky130_fd_pr__pfet_01v8__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__pfet_01v8_lvt__dlc_rotweak = lvt_dlc_rotweak
+ sky130_fd_pr__pfet_01v8_hvt__dlc_rotweak = lvhvt_dlc_rotweak
+ sky130_fd_pr__esd_nfet_g5v0d10v5__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__esd_pfet_g5v0d10v5__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__nfet_03v3_nvt__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__nfet_05v0_nvt__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__nfet_g5v0d10v5__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__pfet_g5v0d10v5__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__pfet_g5v0d16v0__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__special_nfet_pass__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__special_nfet_pass_lowleakage__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__special_nfet_pass_flash__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__special_nfet_latch__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__special_nfet_latch_lowleakage__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__special_pfet_latch__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__special_pfet_latch_lowleakage__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_bs_flash__special_sonosfet_star__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_bs_flash__special_sonosfet_original__dlc_rotweak = hv_dlc_rotweak
+ sonos_eeol_dlc_rotweak = hv_dlc_rotweak
+ sonos_peol_dlc_rotweak = hv_dlc_rotweak

.include "/home/mehtama1/git-repo/ai-hardware-analysis/analog-digital-chip-design-eda/evidence/aimc-simulator-adapters/recovery-20260909/contact-rebuild-v3/aimc_converter_macro_active_candidate_extracted.spice"
.param vdd=1.8
VSS vss 0 0
VDD vdd 0 {vdd}
VROW row_drive 0 0.899923514707
VCOMP sar_comparator_input 0 0.900076485293
VRESET reset 0 PULSE(0 {vdd} 8.00n 20p 20p 200n 400n)
VEVAL eval 0 PULSE(0 {vdd} 8.20n 20p 20p 200n 400n)
VSSX vss_escape 0 0
VDD_EXT vdd_ext 0 {vdd}
RP vdd_ext latch_sense_p_ext 100000
RN vdd_ext latch_sense_n_ext 100000
IBIAS iso_tail_ext 0 4u
IPRE preamp_iso_tail_ext 0 4e-06
RTAIL tail_ext 0 100G
XU vss vdd row_drive sar_comparator_input decision_p decision_n reset eval vss_escape latch_sense_p_ext latch_sense_n_ext iso_tail_ext tail_ext vdd_ext preamp_iso_tail_ext aimc_converter_macro_active_candidate_flat
.options method=gear reltol=2e-3 abstol=1e-14 vntol=1e-7 gmin=1e-12 itl1=1000 itl4=1000 maxord=2 cshunt=1e-15 rshunt=1e12
.tran 20p 100n uic
.measure tran decision_p_v FIND v(decision_p) AT=18n
.measure tran decision_n_v FIND v(decision_n) AT=18n
.measure tran decision_diff_v PARAM='decision_n_v-decision_p_v'
.measure tran supply_charge_c INTEG I(VDD) FROM=0 TO=20n
.measure tran active_supply_charge_c INTEG I(VDD_EXT) FROM=0 TO=20n
.measure tran p0_0 FIND v(decision_p) AT=7.9n
.measure tran p0_1 FIND v(decision_n) AT=7.9n
.measure tran p0_2 FIND v(latch_sense_p_ext) AT=7.9n
.measure tran p0_3 FIND v(latch_sense_n_ext) AT=7.9n
.measure tran p0_4 FIND v(tail_ext) AT=7.9n
.measure tran p0_5 FIND v(iso_tail_ext) AT=7.9n
.measure tran p0_6 FIND v(preamp_iso_tail_ext) AT=7.9n
.measure tran p1_0 FIND v(decision_p) AT=8.3n
.measure tran p1_1 FIND v(decision_n) AT=8.3n
.measure tran p1_2 FIND v(latch_sense_p_ext) AT=8.3n
.measure tran p1_3 FIND v(latch_sense_n_ext) AT=8.3n
.measure tran p1_4 FIND v(tail_ext) AT=8.3n
.measure tran p1_5 FIND v(iso_tail_ext) AT=8.3n
.measure tran p1_6 FIND v(preamp_iso_tail_ext) AT=8.3n
.measure tran p2_0 FIND v(decision_p) AT=18n
.measure tran p2_1 FIND v(decision_n) AT=18n
.measure tran p2_2 FIND v(latch_sense_p_ext) AT=18n
.measure tran p2_3 FIND v(latch_sense_n_ext) AT=18n
.measure tran p2_4 FIND v(tail_ext) AT=18n
.measure tran p2_5 FIND v(iso_tail_ext) AT=18n
.measure tran p2_6 FIND v(preamp_iso_tail_ext) AT=18n
.measure tran p3_0 FIND v(decision_p) AT=28n
.measure tran p3_1 FIND v(decision_n) AT=28n
.measure tran p3_2 FIND v(latch_sense_p_ext) AT=28n
.measure tran p3_3 FIND v(latch_sense_n_ext) AT=28n
.measure tran p3_4 FIND v(tail_ext) AT=28n
.measure tran p3_5 FIND v(iso_tail_ext) AT=28n
.measure tran p3_6 FIND v(preamp_iso_tail_ext) AT=28n
.measure tran p4_0 FIND v(decision_p) AT=48n
.measure tran p4_1 FIND v(decision_n) AT=48n
.measure tran p4_2 FIND v(latch_sense_p_ext) AT=48n
.measure tran p4_3 FIND v(latch_sense_n_ext) AT=48n
.measure tran p4_4 FIND v(tail_ext) AT=48n
.measure tran p4_5 FIND v(iso_tail_ext) AT=48n
.measure tran p4_6 FIND v(preamp_iso_tail_ext) AT=48n
.measure tran p5_0 FIND v(decision_p) AT=98n
.measure tran p5_1 FIND v(decision_n) AT=98n
.measure tran p5_2 FIND v(latch_sense_p_ext) AT=98n
.measure tran p5_3 FIND v(latch_sense_n_ext) AT=98n
.measure tran p5_4 FIND v(tail_ext) AT=98n
.measure tran p5_5 FIND v(iso_tail_ext) AT=98n
.measure tran p5_6 FIND v(preamp_iso_tail_ext) AT=98n
.control
run
.endc
.end
